US08735362B2
Step A: Preparation of N-(3-amino-2-hydroxy-propyl)-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzamide
A solution of (3{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoylamino}-2-hydroxy-propyl)-carbamic acid tert-butyl ester (0.2 g) in dichloromethane (10 ml) was cooled to 0° C., treated with trifluoroacetic acid (0.5 ml) and stirred for 10 h. The reaction mixture was concentrated in vacuo and diluted with dichloromethane (50 ml), washed with saturated aqueous solution of sodium bicarbonate (20 ml) and finally with water (2×20 ml). The organic layer was separated, dried over sodium sulfate and concentrated to give the title compound (0.13 g). LCMS (Method G) 2.84 min, MH+ 490. 1HNMR (CDCl3, 400 MHz): 8.05 (t, 1H), 7.81 (m, 1H), 7.80 (brs, 2H), 7.59 (m, 4H), 7.48 (d, 1H), 4.36 (dd, 2H), 3.85 (m, 2H), 3.28 (m, 2H), 2.50 (m, 1H), 2.37 (s, 3H).

reactant | (3{4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzoylamino}-2-hydroxy-propyl)-carbamic acid tert-butyl ester | 0.2 g | C(C)(C)(C)OC(NCC(CNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)O)=O | C26H28Cl2F3N3O5
reactant | trifluoroacetic acid | 0.5 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | N-(3-amino-2-hydroxy-propyl)-4-[5-(3,5-dichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-2-methyl-benzamide | 0.13 g | NCC(CNC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)O | C21H20Cl2F3N3O3
